Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:7][CH3:8].[CH3:4][CH2:5][N:6]([CH2:2][CH3:1])[CH2:9][CH2:10][OH:11]>>[CH3:1][CH2:2][N+:6]([CH2:5][CH3:4])([CH2:7][CH3:8])[CH2:9][CH2:10][OH:11],[CH3:1][CH2:2][N:6]([CH2:5][CH3:4])[CH2:9][CH2:10][OH:11].[Br:101][CH2:7][CH3:8]>>[CH3:1][CH2:2][N+:6]([CH2:5][CH3:4])([CH2:7][CH3:8])[CH2:9][CH2:10][OH:11],SN2,"[(6, 7), ([7, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][CH:2]([CH2:3][CH:4]=[CH2:5])[CH3:6].[CH2:7]=[CH:8][CH2:9][NH2:10]>>[CH2:1]([CH:2]([CH2:3][CH:4]=[CH2:5])[CH3:6])[NH:10][CH2:9][CH:8]=[CH2:7],[O:101]=[CH:1][CH:2]([CH2:3][CH:4]=[CH2:5])[CH3:6].[CH2:7]=[CH:8][CH2:9][NH2:10].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH:2]([CH2:3][CH:4]=[CH2:5])[CH3:6])[NH:10][CH2:9][CH:8]=[CH2:7],reductive_amination,"[(10, 1), ([1, 101], 301), (101, 10.1), ([10.1, 10], 10), (10, [10, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 10], 10)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@@H:2]([CH3:3])[OH:4])=[O:5].[CH3:6][CH2:7][c:8]1[n:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]2[n:16]1-[c:17]1[n:18][c:19]([N:20]2[CH2:21][CH2:22][O:23][CH2:24][CH2:25]2)[c:26]2[n:27][c:28]([CH2:29][N:30]3[CH2:31][CH2:32][NH:33][CH2:34][C:35]3([CH3:36])[CH3:37])[n:38]([CH3:39])[c:40]2[n:41]1>>[C:1]([C@@H:2]([CH3:3])[OH:4])(=[O:5])[N:33]1[CH2:32][CH2:31][N:30]([CH2:29][c:28]2[n:27][c:26]3[c:19]([N:20]4[CH2:21][CH2:22][O:23][CH2:24][CH2:25]4)[n:18][c:17](-[n:16]4[c:8]([CH2:7][CH3:6])[n:9][c:10]5[cH:11][cH:12][cH:13][cH:14][c:15]45)[n:41][c:40]3[n:38]2[CH3:39])[C:35]([CH3:36])([CH3:37])[CH2:34]1,[CH3:6][CH2:7][c:8]1[n:9][c:10]2[cH:11][cH:12][cH:13][cH:14][c:15]2[n:16]1-[c:17]1[n:18][c:19]([N:20]2[CH2:21][CH2:22][O:23][CH2:24][CH2:25]2)[c:26]2[n:27][c:28]([CH2:29][N:30]3[CH2:31][CH2:32][NH:33][CH2:34][C:35]3([CH3:36])[CH3:37])[n:38]([CH3:39])[c:40]2[n:41]1.[OH:101][C:1]([C@@H:2]([CH3:3])[OH:4])=[O:5].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@@H:2]([CH3:3])[OH:4])(=[O:5])[N:33]1[CH2:32][CH2:31][N:30]([CH2:29][c:28]2[n:27][c:26]3[c:19]([N:20]4[CH2:21][CH2:22][O:23][CH2:24][CH2:25]4)[n:18][c:17](-[n:16]4[c:8]([CH2:7][CH3:6])[n:9][c:10]5[cH:11][cH:12][cH:13][cH:14][c:15]45)[n:41][c:40]3[n:38]2[CH3:39])[C:35]([CH3:36])([CH3:37])[CH2:34]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (33, 1), ([1, 5], 5), (303, 33.1), ([33.1, 33], 33), (5, [5, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[c:2]([C:3]([F:4])([F:5])[F:6])[cH:7][c:8]([N+:9](=[O:10])[O-:11])[c:12]([NH:13][N:14]([CH3:15])[CH3:16])[c:17]1[N+:18](=[O:19])[O-:20].[NH3:21]>>[c:1]1([NH2:21])[c:2]([C:3]([F:4])([F:5])[F:6])[cH:7][c:8]([N+:9](=[O:10])[O-:11])[c:12]([NH:13][N:14]([CH3:15])[CH3:16])[c:17]1[N+:18](=[O:19])[O-:20],[Cl:101][c:1]1[c:2]([C:3]([F:4])([F:5])[F:6])[cH:7][c:8]([N+:9](=[O:10])[OH:11])[c:12]([NH:13][N:14]([CH3:15])[CH3:16])[c:17]1[N+:18](=[O:19])[OH:20].[NH3:21]>>[c:1]1([NH2:21])[c:2]([C:3]([F:4])([F:5])[F:6])[cH:7][c:8]([N+:9](=[O:10])[OH:11])[c:12]([NH:13][N:14]([CH3:15])[CH3:16])[c:17]1[N+:18](=[O:19])[OH:20],SNAr(para),"[(21, 1), ([1, 17], [17, 12]), ([12, 8], [8, 9]), ([9, 10], 10), (10, [10, 9]), ([9, 8], [8, 12]), ([12, 17], [17, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][c:2]1[c:3]([CH2:4][CH2:5][n:6]2[cH:7][c:8]([CH3:9])[n:10][cH:11]2)[cH:12][cH:13][cH:14][cH:15]1>>[NH2:1][c:2]1[c:3]([CH2:4][CH2:5][n:6]2[cH:7][c:8]([CH3:9])[n:10][cH:11]2)[cH:12][cH:13][cH:14][cH:15]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][c:2]1[c:3]([CH2:4][CH2:5][n:6]2[cH:7][c:8]([CH3:9])[n:10][cH:11]2)[cH:12][cH:13][cH:14][cH:15]1.[H+:301]>>[NH2:1][c:2]1[c:3]([CH2:4][CH2:5][n:6]2[cH:7][c:8]([CH3:9])[n:10][cH:11]2)[cH:12][cH:13][cH:14][cH:15]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
